US07705007B2
Using the procedure as described in example 1, cis-4-[4,5-bis-(4-chloro-phenyl)-2-(4,6-diethoxy-pyridin-3-yl)-4,5-dihydro-1H-imidazole was reacted with phosgene to give cis-4-[4,5-bis-(4-chloro-phenyl)-2-(4,6-diethoxy-pyridin-3-yl)-4,5-dihydro-imidazole-1-carbonyl chloride. The carbonyl chloride was then coupled with 2-piperazinone (Alfa) to give cis-4-[4,5-bis-(4-chloro-phenyl)-2-(4,6-diethoxy-pyridin-3-yl)-4,5-dihydro-imidazole-1-carbonyl]-piperazin-2-one hydrochloride.

reactant | 4,5-bis-(4-chloro-phenyl)-2-(4,6-diethoxy-pyridin-3-yl)-4,5-dihydro-1H-imidazole | ClC1=CC=C(C=C1)C1N=C(NC1C1=CC=C(C=C1)Cl)C=1C=NC(=CC1OCC)OCC | C24H23Cl2N3O2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 4,5-bis-(4-chloro-phenyl)-2-(4,6-diethoxy-pyridin-3-yl)-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)Cl)C=1C=NC(=CC1OCC)OCC | C25H22Cl3N3O3
